// Generated for: spectre
// Generated on: Apr  9 13:40:59 2015
// Design library name: 16nm_Tests
// Design cell name: 6T_SNMrwh_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters timeB=200n timeA=100n vdd=500m
include "/home/cadence/ncsu-FreePDK15/hspice_16nm_hp.include"

// Library name: 16nm_Tests
// Cell name: 6T_SNMrwh_Test
// View name: schematic
V0 (nvtc 0) vsource type=pwl wave=[ 0 0 timeA vdd ]
V1 (vdd! 0) vsource type=dc dc=vdd
N4 (SNMw0 vdd! 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
N3 (SNMr vdd! vdd! 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
N2 (SNMr nvtc 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
N1 (SNMw0 nvtc 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
N0 (SNMh nvtc 0 0) nfet w=120n l=20n nfin=1 m=1 degradation=no
P2 (SNMr nvtc vdd! vdd!) pfet w=100n l=20n nfin=1 pd=2 m=1 \
        degradation=yes
P1 (SNMw0 nvtc vdd! vdd!) pfet w=100n l=20n nfin=1 pd=2 m=1 \
        degradation=yes
P0 (SNMh nvtc vdd! vdd!) pfet w=100n l=20n nfin=1 pd=2 m=1 \
        degradation=yes
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=30.0 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p V0:p 
saveOptions options save=allpub
